US07402595B2
6-chloro-3-hydroxymethyl-2-(4-methanesulfonylbenzyl)-4-phenyl-2H-isoquinolin-1-one
In the same manner as in Example 310, the title compound was synthesized using 6-chloro-2-(4-methanesulfonylbenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid. Crystals (diisopropyl ether).

reactant | 6-chloro-2-(4-methanesulfonylbenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid | ClC=1C=C2C(=C(N(C(C2=CC1)=O)CC1=CC=C(C=C1)S(=O)(=O)C)C(=O)O)C1=CC=CC=C1 | C24H18ClNO5S
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
product | 6-chloro-3-hydroxymethyl-2-(4-methanesulfonylbenzyl)-4-phenyl-2H-isoquinolin-1-one | ClC=1C=C2C(=C(N(C(C2=CC1)=O)CC1=CC=C(C=C1)S(=O)(=O)C)CO)C1=CC=CC=C1 | C24H20ClNO4S
